* Wien-Bruecken-Oszillator mit antiserieller Varaktor-Steuerung
.include "MeinJ113.lib"
.include "lm7171.lib"

.param R=1K
.param C=17pF

.options reltol=0.1
.options abstol=1p
.options chgtol=10f
.options plotwinsize=0

* Diodenmodelle
.model __D1 D(Vfwd=0.6 Cjo=0)
.model D_Var D(IS=1e-14 RS=0.5 N=1 CJO=48p M=0.5 VJ=0.7)

C3 0 Net-_D1-A_ 1n
R8 /Ve Net-_J1-D_ 10k
J1 Net-_J1-D_ Net-_D1-A_ 0 MeinJ113
R5 Net-_D1-A_ 0 20k
R4 /Ve 0 1.2k
D1 Net-_D1-A_ Net-_D1-K_ __D1
R2 Net-_D5-A_ 0 {R}
R1 Net-_D4-A_ Net-_D5-A_ {R}
C2 /Va Net-_D4-A_ {C}
D4 Net-_D4-A_ Net-_D2-K_ D_Var
R9 Vstr Net-_D2-K_ 100k
D5 Net-_D5-A_ Net-_D3-K_ D_Var
C1 Net-_D5-A_ 0 {C}
D3 0 Net-_D3-K_ D_Var
R6 Vstr Net-_D3-K_ 100k
V2 VCC+ 0 DC 10
D2 /Va Net-_D2-K_ D_Var
V1 0 VCC- DC 10
V3 Vstr 0 DC 2
R7 /Va Net-_D1-K_ 1K
XU1 Net-_D5-A_ /Ve VCC+ VCC- /Va LM7171
R3 /Ve /Va 2.2k

.ic V(/Va)=0.1
.tran 0 200u 0 10n
.end
