* Wien-Bruecken-Oszillator mit antiserieller Varaktor-Steuerung
.include "MeinJ113.lib"
.include "lm7171.lib"

.param R=1K
.param C=17pF

.options cshunt=1e-15
.options method=gear

* Diodenmodelle
.model 1N4002 D(IS=2.55e-9 RS=0.042 N=1.74 CJO=18.5p M=0.333 VJ=0.75 TT=5.76u BV=100 IBV=10u)
.model 1SV305 D(IS=1e-14 RS=0.27 CJO=28p M=0.5 VJ=0.75 FC=0.5 TT=0 BV=15 IBV=1e-5 mfg=Toshiba type=Varactor)

C3 0 Net-_D1-A_ 1n
J1 Net-_J1-D_ Net-_D1-A_ 0 MeinJ113
R8 /Ve Net-_J1-D_ 10k
R5 Net-_D1-A_ 0 20k
R4 /Ve 0 1.2k
D1 Net-_D1-A_ Net-_D1-K_ 1N4002
R7 /Va Net-_D1-K_ 30
R2 Net-_D5-A_ 0 {R}
R1 Net-_D4-A_ Net-_D5-A_ {R}
R9 Vstr Net-_D2-K_ 100k
C2 /Va Net-_D4-A_ {C}
D4 Net-_D4-A_ Net-_D2-K_ 1SV305
D5 Net-_D5-A_ Net-_D3-K_ 1SV305
C1 Net-_D5-A_ 0 {C}
D3 0 Net-_D3-K_ 1SV305
R6 Vstr Net-_D3-K_ 100k
V2 VCC+ 0 DC 10
D2 /Va Net-_D2-K_ 1SV305
V1 0 VCC- DC 10
V3 Vstr 0 DC 1.83
XU1 Net-_D5-A_ /Ve VCC+ VCC- /Va LM7171
R3 /Ve /Va 2.2k

.ic V(/Va)=0.001
.tran 0 100u 0 10n
.end
